US05527800
3-Chloro-1-(benzofuran-2-yl)-1-propanone
Using dibenzofuran and 3-chloropropionyl chloride, the same procedure as in Reference Example 2 was followed, to yield the title compound as a colorless crystal having a melting point of 116° to 118° C.

reactant | dibenzofuran | C1=CC=CC=2OC3=C(C21)C=CC=C3 | C12H8O
reactant | 3-chloropropionyl chloride | ClCCC(=O)Cl | C3H4Cl2O
product | 3-Chloro-1-(benzofuran-2-yl)-1-propanone | ClCCC(=O)C=1OC2=C(C1)C=CC=C2 | C11H9ClO2
